US08647827B2
N,N,3-trimethyl-4-(pyridine-4-yl)aniline (0.2 g, 0.9 mmols) was dissolved in acetonitrile (50 ml) and methyl iodide (3 ml) was added. The mixture was heated at reflux with stirring for 2 hrs cooled and evaporated to a volume of 10 ml. Then diethyl ether (50 ml) was added and the product crystallized resulting in (0.068 g, 0.19 mmols) of 4-(4-(dimethylamino)-2-methylphenyl)-1-methylpyridinium iodide as a red solid. 1H NMR (DMSO-d6) δ 2.40 (s, 3H), 3.00 (s, 6H), 4.30 (s, 3H), 6.70 (m, 2H), 6.90 (d, 2H), 8.10 (d, 2H), 8.85 (d, 2H).

reactant | N,N,3-trimethyl-4-(pyridine-4-yl)aniline | 0.9 mmols, 0.2 g | CN(C1=CC(=C(C=C1)C1=CC=NC=C1)C)C | C14H16N2
reactant | methyl iodide | 3 ml | CI | CH3I
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-(4-(dimethylamino)-2-methylphenyl)-1-methylpyridinium iodide | 0.19 mmols, 0.068 g | [I-].CN(C1=CC(=C(C=C1)C1=CC=[N+](C=C1)C)C)C | InChI=1S/C15H19N2.HI/c1-12-11-14(16(2)3)5-6-15(12)13-7-9-17(4)10-8-13;/h5-11H,1-4H3;1H/q+1;/p-1
